US04089961
To 160 ml. of chlorosulfonic acid stirring at 0°-5° C. was gradually added 100.5 g. (0.33 mole) of 2-bromobenzoic acid. Stirring was continued as the temperature was allowed to increase to 25° C. The mixture was stirred and refluxed for three hours, then it was cooled and poured into ice-water. The solid was filtered and then washed with cold water until the filtrate was no longer acidic. The solid, thus isolated, was added, in portions, to 200 ml. of a 40% aqueous solution of dimethylamine. After being diluted with 500 ml. of water, the solution was made acidic with 2.5 N hydrochloric acid. Recrystallization of the precipitated solid from aqueous ethanol gave crystals of 2-bromo-5-dimethylaminosulfonylbenzoic acid, m.p. 170°-172° C.

reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | 2-bromobenzoic acid | 0.33 mole | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | dimethylamine | CNC | C2H7N
reactant | hydrochloric acid | 2.5 N | Cl | ClH
solvent | water | O | H2O
product | 2-bromo-5-dimethylaminosulfonylbenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N(C)C | C9H10BrNO4S
